* Coriolis Structural SPICE Driver
* Generated on Oct 07, 2022, 10:57
* Cell/Subckt "top_ngspice.cir".
* 

*****************
.option  nopage nomod
+        newtol numdgt=7 ingold=2 gmindc=1e-18
.option DOTNODE
.option MSGNODE = 0

.TEMP 25
.lib /users/soft/analogdesign/scalable/techno/sky130_models_20220217/C4M.Sky130_all_lib.spice logic_tt 
*.INCLUDE /users/soft/analogdesign/scalable/techno/sky130_models_20220217/C4M.Sky130_tt_model.spice

Vsupply evdd 0 1.8
Vground evss 0 0
gfoncd evdd 0 evdd 0 1.0e-15

******************
* circuit model
* include standard cells
.INCLUDE /users/cao/mariem/coriolis-2.x/src/alliance-check-toolkit/pdkmaster/C4M.Sky130/libs.ref/StdCellLib/spice/StdCellLib.spi

* include circuit netlist
.INCLUDE SARlogic_netlist.spi

*****************
*****************
* Circuit Instantiation
* INTERF vss
* INTERF vdd
* INTERF rst
* INTERF res[7]
* INTERF res[6]
* INTERF res[5]
* INTERF res[4]
* INTERF res[3]
* INTERF res[2]
* INTERF res[1]
* INTERF res[0]
* INTERF cmp
* INTERF clk
* INTERF SOC
* INTERF SE
* INTERF EOC
* INTERF DAC_control[7]
* INTERF DAC_control[6]
* INTERF DAC_control[5]
* INTERF DAC_control[4]
* INTERF DAC_control[3]
* INTERF DAC_control[2]
* INTERF DAC_control[1]
* INTERF DAC_control[0]

* NET     0 = vss
* NET     1 = vdd
* NET     2 = rst
* NET    27 = res[7]
* NET    28 = res[6]
* NET    29 = res[5]
* NET    30 = res[4]
* NET    31 = res[3]
* NET    32 = res[2]
* NET    33 = res[1]
* NET    34 = res[0]
* NET    45 = cmp
* NET    46 = clk
* NET   176 = SOC
* NET   178 = SE
* NET   180 = EOC
* NET   189 = DAC_control[7]
* NET   190 = DAC_control[6]
* NET   191 = DAC_control[5]
* NET   192 = DAC_control[4]
* NET   193 = DAC_control[3]
* NET   194 = DAC_control[2]
* NET   195 = DAC_control[1]
* NET   196 = DAC_control[0]

*.subckt SARlogic evss evdd 2 27 28 29 30 31 32 33 34 45 46 176 178 180 189 190 191 192 193 194 195 196
XSARlogic evss evdd 2 27 28 29 30 31 32 33 34 45 46 176 178 180 189 190 191 192 193 194 195 196 SARlogic

*load on outputs
Cres0 34 evss 0.05pF
Cres1 33 evss 0.05pF
Cres2 32 evss 0.05pF
Cres3 31 evss 0.05pF
Cres4 30 evss 0.05pF
Cres5 29 evss 0.05pF
Cres6 28 evss 0.05pF
Cres7 27 evss 0.05pF

C0 196 evss 0.05pF
C1 195 evss 0.05pF
C2 194 evss 0.05pF
C3 193 evss 0.05pF
C4 192 evss 0.05pF
C5 191 evss 0.05pF
C6 190 evss 0.05pF
C7 189 evss 0.05pF

*clock
vck 46 evss dc 0.6 pulse (0 1.8 5ns 1ns 1ns 50ns 110ns)

* input
** reset
vrst 2 evss 0
** cmp
vcmp 45 evss 1.8

*start of conversion SOC
vsoc 176 evss dc 0.6 pulse (0 1.8 5ns 1ns 1ns 110ns 1100ns)


* transient analysis *
.control
TRAN 100ps 800ns 0 

set width=110

gnuplot start v(176)
+ title 'Start of Conversion'
+ xlabel 'time / s' ylabel 'Vsoc / V' 

gnuplot clock v(46)
+ title 'clock'
+ xlabel 'time / s' ylabel 'VPHI and VPH2 / V' 

gnuplot res v(27) v(28) v(29)
+ title 'result'
+ xlabel 'time / s' ylabel 'ResultOutput / V' 

gnuplot DacCtrl v(189) v(190)
+ title 'DAC_control'
+ xlabel 'time / s' ylabel 'Dac Control / V' 

plot v(45)

.endc



.end

